US04469865
To 5 ml of dry acetonitrile were added 1.7 g of 1-benzoylimidazole and 2.6 g of methyl 4-bromomethylcinnamate, and the mixture was stirred for 5 hours at room temperature. The precipitated crystals were collected by filtration and recrystallized from acetonitrile/diethyl ether to yield 3.5 g of 1-benzoyl-3-[4-(2-methoxycarbonylvinyl)benzyl]imidazolium bromide.

reactant | 1-benzoylimidazole | 1.7 g | C(C1=CC=CC=C1)(=O)N1C=NC=C1 | C10H8N2O
reactant | methyl 4-bromomethylcinnamate | 2.6 g | BrCC1=CC=C(C=CC(=O)OC)C=C1 | C11H11BrO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-benzoyl-3-[4-(2-methoxycarbonylvinyl)benzyl]imidazolium bromide | 3.5 g | [Br-].C(C1=CC=CC=C1)(=O)[N+]1=CN(C=C1)CC1=CC=C(C=C1)C=CC(=O)OC | InChI=1S/C21H19N2O3.BrH/c1-26-20(24)12-11-17-7-9-18(10-8-17)15-22-13-14-23(16-22)21(25)19-5-3-2-4-6-19;/h2-14,16H,15H2,1H3;1H/q+1;/p-1
